US06372759B1
A) 3-Chloroindole-6-carboxylic acid
To a solution of indole-6-carboxylic acid (2.45 g, 15.2 mmol) in dichloromethane (100 mL) and DMF (10 mL) was added N-chlorosuccinimide (2 g, 15.2 mmol). After 3 h, the solvent was removed in vacuo and the residue was suspended in dichloromethane, sonicated and filtered to give 2.38 g (80%) of the title compound.

reactant | indole-6-carboxylic acid | 15.2 mmol, 2.45 g | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
reactant | N-chlorosuccinimide | 15.2 mmol, 2 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-Chloroindole-6-carboxylic acid | 2.38 g, 80% | ClC1=CNC2=CC(=CC=C12)C(=O)O | C9H6ClNO2
